US09416135B2
A mixture of compound (E)-1-(2-acetyl-4,4,4-trifluoro-3-oxobut-1-en-1-yl)urea (55 g, 0.25 mol) and POCl3 (240.7 g, 1.57 mol) was stirred at 100° C. for 3 h. The mixture was added dropwise to water (1.5 L) at rt and extracted with EtOAc (3×500 mL). The combined organic layers were washed with brine (500 mL), dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by column chromatography eluting with PE/EtOAc 3/1 to give compound 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (23.5 g, 42.7% yield) as a pale-yellow oil. 1H NMR (CDCl3 300 MHz): δ 8.80 (s, 1H), 2.58 (s, 3H). 19F NMR (920-083-1A CDCl3 400 MHz): δ −65.5 ppm. 13C NMR (903-158-1A CDCl3 400 MHz): δ 195.9, 162.3, 160.1, 153.8 (dd, J=50 Hz), 130.9, 119.5 (dd, J=366 Hz), 30.7.

reactant | (E)-1-(2-acetyl-4,4,4-trifluoro-3-oxobut-1-en-1-yl)urea | 0.25 mol, 55 g | C(C)(=O)\C(=C/NC(=O)N)\C(C(F)(F)F)=O | C7H7F3N2O3
reactant | POCl3 | 1.57 mol, 240.7 g | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | 1.5 L | O | H2O
product | 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 23.5 g, 42.7% yield | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)=O | C7H4ClF3N2O
